US08012976B2
8-(4-((Dimethylamino)methyl)phenyl)-5-fluoro-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (160 mg, 0.35 mmol) in methanol (2 mL) was added hydrazine monohydrate (0.5 mL), and the mixture was stirred at 25° C. for 10 hr. The mixture was filtered to obtain the title compound as a white solid (45 mg, yield 30%). LC-MS (ESI) m/z: 420 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.10 (s, 6H), 3.36 (s, 2H), 3.59 (s, 3H), 4.91-4.99 (m, 2H), 6.91-6.95 (dd, J1=11.2 Hz, J2=2.4 Hz, 1H), 7.05-7.08 (dd, J1=9.2 Hz, J2=2.4 Hz, 1H), 7.20-7.23 (d, J=8.0 Hz, 2H), 7.35-7.37 (d, J=8.0 Hz, 2H), 7.72 (s, 1H), 7.79 (s, 1H), 12.33 (s, 1H).

reactant | ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.35 mmol, 160 mg | CN(C)CC1=CC=C(C=C1)C1NC=2C=C(C=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC)F | C24H26FN5O3
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 8-(4-((Dimethylamino)methyl)phenyl)-5-fluoro-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 45 mg, yield 30% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=C(C=C(C23)N1)F)=O)C1=NC=NN1C | C22H22FN7O
